US04044049
3-Propyl-5-(4'-fluorophenyl)-2-hydroxy-benzoic acid
A solution of 0.8 g. of 3-allyl-5-(4'-fluorophenyl)-2-hydroxy-benzoic acid in 25 ml. of ethanol is subjected to hydrogenation at 40 p.s.i. and 25° C. in the presence of 0.1 g. of platinum oxide. After the uptake of the required amount of hydrogen, the catalyst and solvent are removed, and the crude product is recrystallized from benzene. The yield of 3-propyl-5-(4'-fluorophenyl)-2-hydroxy-benzoic acid is 0.72 g., m.p. 188°14 190° C.

reactant | 3-allyl-5-(4'-fluorophenyl)-2-hydroxy-benzoic acid | C(C=C)C=1C(=C(C(=O)O)C=C(C1)C1=CC=C(C=C1)F)O | C16H13FO3
catalyst | platinum oxide | [Pt]=O
solvent | ethanol | C(C)O | C2H6O
product | 3-Propyl-5-(4'-fluorophenyl)-2-hydroxy-benzoic acid | C(CC)C=1C(=C(C(=O)O)C=C(C1)C1=CC=C(C=C1)F)O | C16H15FO3
